US06248766B1
To a solution of ethyl[(3-oxo-2,3-dihydrobenzofuran-7-yl)oxy]acetate (1.00 g, 4.23 mmol) in chloroform (30 mL) was added pyridinium hydrobromide perbromide (1.35 g, 4.23 mmol) at 0° C. and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water. The organic layer was washed with water, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure to provide 1.20 g of ethyl[(2-bromo-3-oxo-2,3-dihydrobenzofuran-7-yl)oxy]acetate. A mixture of this compound (1.20 g, 3.80 mmol) and 1-phenyl-2-thiourea (580 mg, 3.80 mmol) in acetic acid (20 mL) was refluxed for 3 hours. The solvent was then distilled off under reduced pressure. To that residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate-hexane=1:5) to provide 180 mg of the title compound. Yield 12%.

reactant | ethyl[(3-oxo-2,3-dihydrobenzofuran-7-yl)oxy]acetate | 4.23 mmol, 1.00 g | C(C)OC(COC1=CC=CC=2C(COC21)=O)=O | C12H12O5
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl[(2-bromo-3-oxo-2,3-dihydrobenzofuran-7-yl)oxy]acetate | 1.20 g | C(C)OC(COC1=CC=CC=2C(C(OC21)Br)=O)=O | C12H11BrO5
